data/oMe_Silver.jsonl
{"reaction_id": "NR-148_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(F)(F)F_3-CC_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_5-C(F)(F)F_6-C(C)(C)C","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(C(F)(F)F)CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O[Si](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","C(=O)(C(F)(F)F)(C(C)(C)C)"],"products_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(C(F)(F)F)(CC)C(O)(C(F)(F)F)(C(C)(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))(C(F)(F)F)(C(C)(C)C)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(C(F)(F)F)(CC)C(O[Si](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))(C(F)(F)F)(C(C)(C)C)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(C(F)(F)F)(CC)C(O)(C(F)(F)F)(C(C)(C)C)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
{"reaction_id": "NR-338_1-C_2-c1ccc(F)cc1_3-CC_4-CC_5-C(C)(C)C","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(c1ccc(F)cc1)CC)(C)O[Si](CC)(CC)CC","O=C(OO)C(C)(C)C"],"products_smiles": ["C(=O)(C(O[Si](CC)(CC)CC)(c1ccc(F)cc1)CC)C"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](CC)(CC)CC)(C)C(c1ccc(F)cc1)(CC)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](CC)(CC)CC)(C)C([O-])(c1ccc(F)cc1)CC","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](CC)(CC)CC)(c1ccc(F)cc1)CC)C","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
